US06040318
A mixture of 5-(3-bromopropylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (5.8 g, 19.8 mmol), ethyl 4-(piperidin-4-yl)butyrate (6.1 g, 29 mmol), potassium carbonate (2.9 g, 21 mmol) and N,N-dimethylformamide (10 ml) was heated at 120° C. for 5 h. After cooling, benzene (50 ml) and water (50 ml) were added and the phases were separated. The organic phase was dried and the solvent was evaporated in vacuo. The residue was purified by column chromatography on silica gel (50 g) using mixtures of benzene and chloroform as eluents to give 6.9 g (83%) of 4-(1-(3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)piperidin-4-yl)butyric acid ethyl ester as an oil.

reactant | 5-(3-bromopropylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 19.8 mmol, 5.8 g | BrCCC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C18H17Br
reactant | ethyl 4-(piperidin-4-yl)butyrate | 29 mmol, 6.1 g | N1CCC(CC1)CCCC(=O)OCC | C11H21NO2
reactant | potassium carbonate | 21 mmol, 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-(1-(3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)piperidin-4-yl)butyric acid ethyl ester | 6.9 g, 83% | C(C)OC(CCCC1CCN(CC1)CCC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2)=O | C29H37NO2
